US08440652B2
General method A was applied to 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopentanecarbonitrile (149 mg, 0.5 mmol) and 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (180 mg, 0.5 mmol) to give 1-(4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)phenyl)cyclopentanecarbonitrile as a yellow solid (89 mg, 0.22 mmol, 44% yield) after purification by preparatory reverse phase HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.60 (s, 1H), 8.02 (d, J=8.3 Hz, 3H), 7.96 (d, J=8.0 Hz, 1H), 7.72-7.78 (m, 1H), 7.70 (s, 1H), 7.57 (m, J=8.5 Hz, 3H), 3.38-3.45 (m, 2H), 2.99 (t, J=6.4 Hz, 2H), 2.37-2.46 (m, 2H), 2.03-2.16 (m, 2H), 1.84-1.94 (m, 4H); MS (EI) m/z=410.5 [M+1]+.

reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopentanecarbonitrile | 0.5 mmol, 149 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CCCC1)C#N)C | C18H24BNO2
reactant | 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.5 mmol, 180 mg | NC=1C(=NC(=CN1)Br)C=1C=C2CCNC(C2=CC1)=O | C13H11BrN4O
product | 1-(4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)phenyl)cyclopentanecarbonitrile | 0.22 mmol, 89 mg, 44% yield | NC=1N=CC(=NC1C=1C=C2CCNC(C2=CC1)=O)C1=CC=C(C=C1)C1(CCCC1)C#N | C25H23N5O
